US05021433
Preparation of [2-[[(4-Methoxy-3,5-dimethyl-2-pyridinyl)methyl)sulfinyl]-1H-benzimidazol-1-yl]methanol
2-[[(4-Methoxy-3,5-dimethyl-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole (3.15 g, 10 mmoles) and N,N-dimethylaminopyridine (120 mg, 1 mmol) was dissolved in methylene chloride (50 ml). A solution of formaldehyde (5M, 10 ml, 50 mmol) was added and the mixture was stirred violently for 2 minutes. The phases were separated and the methylene chloride solution was dried (sodium sulphate), filtered and evaporated to dryness. The slightly red residue was the title compound as an essentially pure oil.

reactant | 2-[[(4-Methoxy-3,5-dimethyl-2-pyridinyl)methyl]sulfinyl]-1H-benzimidazole | 10 mmoles, 3.15 g | COC1=C(C(=NC=C1C)CS(=O)C1=NC2=C(N1)C=CC=C2)C | C16H17N3O2S
reactant | formaldehyde | 50 mmol, 5M, 10 ml | C=O | CH2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | [2-[[(4-Methoxy-3,5-dimethyl-2-pyridinyl)methyl)sulfinyl]-1H-benzimidazol-1-yl]methanol | COC1=C(C(=NC=C1C)CS(=O)C1=NC2=C(N1CO)C=CC=C2)C | C17H19N3O3S
